US04029772
To a stirred solution of acetylalanylalanylproline (2 mmole) and N-methylmorpholine (2 mmole) in dry tetrahydrofuran (20 ml) at -20° to -25° C. is added isobutyl chloroformate (2 mmole). After 5 minutes a solution of 2-azaalanine ethyl ester (2 mmole) in tetrahydrofuran (3 ml) is added dropwise and the reaction mixture is allowed to warm to room temperature over a period of 1 hour and stirred for a further 4 hours. The precipitate is filtered off and the filtrate is evaporated to dryness. Chromatography on silica gel (50 gm) and elution with 10% methanol in chloroform gives pure acetylalanylalanylprolyl-2-azaalanine ethyl ester.

reactant | acetylalanylalanylproline | 2 mmole | C(C)(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C13H21N3O5
reactant | N-methylmorpholine | 2 mmole | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 2 mmole | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-azaalanine ethyl ester | 2 mmole | C(C)OC(N(N)C)=O | C4H10N2O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | acetylalanylalanylprolyl-2-azaalanine ethyl ester | C(C)OC(N(NC([C@H]1N(CCC1)C([C@@H](NC([C@@H](NC(C)=O)C)=O)C)=O)=O)C)=O | C17H29N5O6
